US07125896B2
a) 1-(4-Bromobenzyl)piperidin-4-ol
4-Bromobenzylbromide (3 g) was stirred with 4-hydroxypiperidine (1.21 g) and potassium carbonate (1.99 g) in dimethylacetamide (15 ml) at 50° C. for 3 h. The reaction mixture was then allowed to cool, poured into water (80 ml) and extracted with ethyl acetate (3×50 ml). The combined extracts were washed with water, dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography, eluting with a gradient of 0–3% methanol in dichloromethane, to afford the product as a viscous, colourless oil (2.02 g).

reactant | 4-Bromobenzylbromide | 3 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | 4-hydroxypiperidine | 1.21 g | OC1CCNCC1 | C5H11NO
reactant | potassium carbonate | 1.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 80 ml | O | H2O
solvent | dimethylacetamide | 15 ml | CC(=O)N(C)C | C4H9NO
product | 1-(4-Bromobenzyl)piperidin-4-ol | 2.02 g | BrC1=CC=C(CN2CCC(CC2)O)C=C1 | C12H16BrNO
